US07220876B2
2-Methyl-6-{(1R,3S)-3-[2-(3-phenylpropylamino)ethoxy]cyclohexyloxy-methyl}benzoic acid
200 mg of methyl 2-methyl-6-[(1R,3S)-3-(2-oxoethoxy)cyclohexyloxy-methyl]benzoate and 90 μl of 3-phenylpropylamine are dissolved in 5 ml of methanol. 300 mg of 4 Å molecular sieve, which had been dried by heating, are added, and the mixture is stirred at room temperature for two hours. 25 mg of sodium borohydride are then added to the reaction mixture. After 30 minutes, 50 ml of ethyl acetate are added and the molecular sieve is removed from the mixture by filtration through celite. The filtrate is concentrated under reduced pressure, the residue is dissolved in 5 ml of tert-butanol and 0.5 ml of 10 N potassium hydroxide solution are added. The mixture is refluxed for 1 day. After addition of 2 ml of water, the organic phase is removed and the aqueous phase is extracted three times with in each case 20 ml of ethyl acetate. The combined organic phases are dried over magnesium sulfate and the solvents are then removed under reduced pressure. This gives 160 mg of 2-methyl-6-{(1R,3S)-3-[2-(3-phenylpropylamino)ethoxy]cyclohexyloxymethyl}benzoic acid as a yellow oil. C26H25NO4 (425.57), MS(ESI): 426 (M+H+).

reactant | methyl 2-methyl-6-[(1R,3S)-3-(2-oxoethoxy)cyclohexyloxy-methyl]benzoate | 200 mg | CC1=C(C(=O)OC)C(=CC=C1)CO[C@H]1C[C@H](CCC1)OCC=O | C18H24O5
reactant | 3-phenylpropylamine | 90 μl | C1(=CC=CC=C1)CCCN | C9H13N
solvent | methanol | 5 ml | CO | CH4O
product | 2-Methyl-6-{(1R,3S)-3-[2-(3-phenylpropylamino)ethoxy]cyclohexyloxy-methyl}benzoic acid | CC1=C(C(=O)O)C(=CC=C1)CO[C@H]1C[C@H](CCC1)OCCNCCCC1=CC=CC=C1 | C26H35NO4
